US04256640
(1) 4-(N-t-Butoxycarbonyl-N-methylaminomethyl)2,3,4,9-tetrahydrothiopyrano[2,3-b]indole
To a solution of 4-methylaminomethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole (4.41 g) in tetrahydrofuran (50 ml) are added triethylamine (4 ml) and 2-(t-butoxycarbonylthio)-4,6-dimethylpyrimidine (4.76 l g) successively at room temperature. The mixture is stirred at room temperature for 2.5 hours and evaporated to remove the solvent. The residue is extracted with chloroform after addition of water. The extract is washed, dried and evaporated to give crude crystals. Recrystallization from acetone gives the title compound (5.57 g) melting at 220°-222° C. (decomp.).

reactant | 4-methylaminomethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | 4.41 g | CNCC1CCSC=2NC3=CC=CC=C3C21 | C13H16N2S
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(t-butoxycarbonylthio)-4,6-dimethylpyrimidine | 4.76 l | C(C)(C)(C)OC(=O)SC1=NC(=CC(=N1)C)C | C11H16N2O2S
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(N-t-Butoxycarbonyl-N-methylaminomethyl)2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | 5.57 g, Yield: 93% | C(C)(C)(C)OC(=O)N(C)CC1CCSC=2NC3=CC=CC=C3C21 | C18H24N2O2S
